US06656971B2
5-[3-(Carboxy)benzyloxy]isophthalic acid.
A suspension of dimethyl 5-[3-(methoxycarbonyl)benzyloxy]isophthalate (6.36 g, 16.5 mmol) in the mixture of KOH (15% aq., 45 mL) and EtOH (100 mL) was refluxed for 0.5 h, then cooled to room temperature and stirred overnight. The formed solution was extracted with dichloromethane (50 mL). The aqueous layer was separated, acidified with HCl conc. (to pH 2), and bulky precipitate formed was filtered and air-dried. White microcrystals; yield 4.71 g (97%).

reactant | dimethyl 5-[3-(methoxycarbonyl)benzyloxy]isophthalate | 16.5 mmol, 6.36 g | COC(=O)C=1C=C(COC=2C=C(C=C(C(=O)OC)C2)C(=O)OC)C=CC1 | C19H18O7
reactant | KOH | 45 mL | [OH-].[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-[3-(Carboxy)benzyloxy]isophthalic acid | C(=O)(O)C=1C=C(COC=2C=C(C=C(C(=O)O)C2)C(=O)O)C=CC1 | C16H12O7
